US04596872
8-(4-Chlorophenyl)-5,6-dihydroimidazo[1,2-a]pyridine
Combine 25 g (0.14 mol) of 4-chlorophenyl cyclopropyl ketone with 50 g (0.73 mol) of imidazole, and heat to 175° C. for 18 hr. Isolation of the product by column chromatography using 200 g of silica gel and methylene chloride as solvent followed by crystallization from ether affords the title compound.

reactant | 4-chlorophenyl cyclopropyl ketone | 0.14 mol, 25 g | C1(CC1)C(=O)C1=CC=C(C=C1)Cl | C10H9ClO
reactant | imidazole | 0.73 mol, 50 g | N1C=NC=C1 | C3H4N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 8-(4-Chlorophenyl)-5,6-dihydroimidazo[1,2-a]pyridine | ClC1=CC=C(C=C1)C=1C=2N(CCC1)C=CN2 | C13H11ClN2
